US07576095B2
Step 4 1-(2-Chloro-4-fluoro-phenyl)-2-(4-hydroxy-phenyl)-3-methyl-5-piperidin-1-yl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one
2-[4-(tert-Butyldimethylsilanyloxy)phenyl]-1-(2-chloro-4-fluorophenyl)-3-methyl-5-piperidin-1-yl-1,5,6,7-tetrahydropyrrolo[3,2-c]pyridin-4-one (0.929 g, 1.63 mmol) was suspended in THF (10 ml) and TBAF (1 M in THF, 1.64 ml) was added. The reaction mixture was stirred at rt for 1 h whereafter the solvent was evaporated and ethyl acetate/water added. The phases were separated and the organic phase dried and evaporated. The crude product was recrystallised from ethyl acetate/toluene to yield the product as an orange solid (0.223 g, 23% over 3 steps).

reactant | 2-[4-(tert-Butyldimethylsilanyloxy)phenyl]-1-(2-chloro-4-fluorophenyl)-3-methyl-5-piperidin-1-yl-1,5,6,7-tetrahydropyrrolo[3,2-c]pyridin-4-one | 1.63 mmol, 0.929 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1=C(C=2C(N(CCC2N1C1=C(C=C(C=C1)F)Cl)N1CCCCC1)=O)C | C31H39ClFN3O2Si
reactant | TBAF | 1 M, 1.64 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(2-Chloro-4-fluoro-phenyl)-2-(4-hydroxy-phenyl)-3-methyl-5-piperidin-1-yl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 0.223 g, 23% | ClC1=C(C=CC(=C1)F)N1C(=C(C=2C(N(CCC21)N2CCCCC2)=O)C)C2=CC=C(C=C2)O | C25H25ClFN3O2
